US06002008
1,4-Dihydro-6,7-dimethoxy-4-oxo-3-quinolinecarbonitrile
A mixture of 40 g of ethyl 2-cyano-3-(3,4-dimethoxyphenylamino)acrylate and 1.2 L of Dowtherm® A was refluxed for 10 h, cooled, and diluted with hexane. The resulting solid was filtered, washed with hexane followed by dichloromethane, and dried; mp 330-350° C. (dec).

reactant | ethyl 2-cyano-3-(3,4-dimethoxyphenylamino)acrylate | 40 g | C(#N)C(C(=O)OCC)=CNC1=CC(=C(C=C1)OC)OC | C14H16N2O4
reactant | Dowtherm | 1.2 L | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | hexane | CCCCCC | C6H14
product | 1,4-Dihydro-6,7-dimethoxy-4-oxo-3-quinolinecarbonitrile | COC=1C=C2C(C(=CNC2=CC1OC)C#N)=O | C12H10N2O3
